US06028195
1-[(2-Methoxyquinolin-3-yl)aminocarbonyl]-4-(1-naphthyl)piperazine
Phenyl N-(2-methoxyquinolin-3-yl)carbamate and 1-(1-naphthyl)piperazine were reacted by the same way with the example 81 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinolin-3-yl)carbamate | COC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C17H14N2O3
reactant | 1-(1-naphthyl)piperazine | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
product | 1-[(2-Methoxyquinolin-3-yl)aminocarbonyl]-4-(1-naphthyl)piperazine | yield: 68% | COC1=NC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=CC=CC2=CC=CC=C12 | C25H24N4O2
